US05942618
10 mmol of 1-fluoro-7-(5-hydroxypyrimidin-2-yl)-3-octyloxy-5,6,7,8-tetrahydroisoquinoline are dissolved in 50 ml of DMF, and 11 mmol of sodium hydride are added. After the mixture has been stirred for 30 minutes, 11 mmol of 1-octyl bromide are added dropwise, and the mixture is stirred at 60° C. for a further 140 minutes and poured into water. The mixture is extracted with dichloromethane, the combined organic phases are dried, the solvent is removed in vacuo, and the residue is chromatographed on silica gel, giving 9 mmol of 7-[5-(octyloxy)pyrimidin-2-yl]-1-fluoro-3-octyloxy-5,6,7,8-tetrahydroisoquinoline.

reactant | 1-fluoro-7-(5-hydroxypyrimidin-2-yl)-3-octyloxy-5,6,7,8-tetrahydroisoquinoline | 10 mmol | FC1=NC(=CC=2CCC(CC12)C1=NC=C(C=N1)O)OCCCCCCCC | C21H28FN3O2
reactant | sodium hydride | 11 mmol | [H-].[Na+]
reactant | 1-octyl bromide | 11 mmol | C(CCCCCCC)Br | C8H17Br
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 7-[5-(octyloxy)pyrimidin-2-yl]-1-fluoro-3-octyloxy-5,6,7,8-tetrahydroisoquinoline | 9 mmol | C(CCCCCCC)OC=1C=NC(=NC1)C1CCC=2C=C(N=C(C2C1)F)OCCCCCCCC | C29H44FN3O2
